US09290451B2
(6-Cyclopropylmethoxy-5-pyrrolidin-1-yl-pyridin-2-yl)-(2-oxa-6-aza-spiro[3.3]hept-6-yl)-methanone
The title compound was synthesized in analogy to Example 1, using 6-cyclopropylmethoxy-5-pyrrolidin-1-yl-pyridine-2-carboxylic acid (Example 14 a) and 2-oxa-6-azaspiro[3.3]heptane (CAN 174-78-7) as starting materials, MS (EI): m/e=344.3 [M+H]+.

reactant | 6-cyclopropylmethoxy-5-pyrrolidin-1-yl-pyridine-2-carboxylic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)N1CCCC1 | C14H18N2O3
reactant | 2-oxa-6-azaspiro[3.3]heptane | C1OCC12CNC2 | C5H9NO
product | (6-Cyclopropylmethoxy-5-pyrrolidin-1-yl-pyridin-2-yl)-(2-oxa-6-aza-spiro[3.3]hept-6-yl)-methanone | C1(CC1)COC1=C(C=CC(=N1)C(=O)N1CC2(COC2)C1)N1CCCC1 | C19H25N3O3
